US04051248
A. 2-[(Dimethylamino)methyl]-6-(trifluoromethyl)-3,4-dihydro-1 (2H)-naphthalenone, hydrochloride (1:1)
A mixture of 6-(trifluoromethyl)-1-tetralone (0.90 g), dimethylamine hydrochloride (0.42 g), paraformaldehyde (0.16 g), and 95% ethanol (2 ml) containing concentrated hydrogen chloride (0.02 ml) is heated on a steam bath for 1 1/2 hours. The reaction mixture soon becomes homogeneous and the paraformaldehyde dissolves. The warm solution is diluted with acetone (15 ml) and cooled to yield the title compound as white needles (1.0 g) melting point 137°-138° C.

reactant | 6-(trifluoromethyl)-1-tetralone | 0.90 g | FC(C=1C=C2CCCC(C2=CC1)=O)(F)F | C11H9F3O
reactant | dimethylamine hydrochloride | 0.42 g | Cl.CNC
reactant | paraformaldehyde | 0.16 g | C=O | CH2O
reactant | hydrogen chloride | 0.02 ml | Cl | ClH
solvent | acetone | 15 ml | CC(=O)C | C3H6O
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 2-[(Dimethylamino)methyl]-6-(trifluoromethyl)-3,4-dihydro-1 (2H)-naphthalenone, hydrochloride | 1.0 g | Cl.CN(C)CC1C(C2=CC=C(C=C2CC1)C(F)(F)F)=O | InChI=1S/C14H16F3NO.ClH/c1-18(2)8-10-4-3-9-7-11(14(15,16)17)5-6-12(9)13(10)19;/h5-7,10H,3-4,8H2,1-2H3;1H
